US04001328
A solution of 96.2 g. of 4,4-diphenyl-1-butene dissolved in 400 ml. of chloroform was added dropwise over one hour to a cold (0° C) suspension of 110.0 g. of m-chloroperbenzoic acid in 700 ml. of chloroform. The reaction mixture was warmed to about 25° C. and stirred for four hours. The reaction mixture was then washed with aqueous 2N sodium hydroxide solution, with water, and dried. Evaporation of the solvent under reduced pressure provided 158.3 g. of a yellow oil as the crude product. The oil was distilled to afford 1,2-epoxy-4,4-diphenyl-butane. B.P. 124°-126° C at 0.03 torr.

reactant | 4,4-diphenyl-1-butene | C1(=CC=CC=C1)C(CC=C)C1=CC=CC=C1 | C16H16
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2-epoxy-4,4-diphenyl-butane | O1CC1CC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O
